US09359371B2
In THF (20 mL) were dissolved 2-(3-azabicyclo[3.1.0]hexan-3-yl)-4-((3-chloro-4-methoxybenzyl)amino)pyrimidine-5-carboxylic acid (180 mg, 0.48 mmol), trans-4-hydroxycyclohexylamine (66 mg, 0.58 mmol) and HATU (220 mg, 0.58 mmol). The solution was cooled in an ice bath and DIEA (0.25 mL, 1.44 mmol) was added then. The reaction was conducted at ambient temperature for 8 h, followed by concentration, addition of water and extraction with ethyl acetate. The organic phase was dried, concentrated and purified by silica gel column chromatography (DCM/methanol=20/1) to give 2-(3-azabicyclo[3.1.0]hexan-3-yl)-4-((3-chloro-4-methoxybenzyl)amino)-N-(trans-4-hydroxycyclohexanyl)pyrimidine-5-formamide (141 mg, 62% yield).

reactant | 2-(3-azabicyclo[3.1.0]hexan-3-yl)-4-((3-chloro-4-methoxybenzyl)amino)pyrimidine-5-carboxylic acid | 0.48 mmol, 180 mg | C12CN(CC2C1)C1=NC=C(C(=N1)NCC1=CC(=C(C=C1)OC)Cl)C(=O)O | C18H19ClN4O3
reactant | trans-4-hydroxycyclohexylamine | 0.58 mmol, 66 mg | O[C@@H]1CC[C@H](CC1)N | C6H13NO
reactant | HATU | 0.58 mmol, 220 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 1.44 mmol, 0.25 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-(3-azabicyclo[3.1.0]hexan-3-yl)-4-((3-chloro-4-methoxybenzyl)amino)-N-(trans-4-hydroxycyclohexanyl)pyrimidine-5-formamide | 141 mg, 62% yield | C12CN(CC2C1)C1=NC=C(C(=N1)NCC1=CC(=C(C=C1)OC)Cl)C(=O)N[C@@H]1CC[C@H](CC1)O | C24H30ClN5O3
